US07612055B2
A mixture of 0.75 g (2.38 mmol) 3-benzyloxycarbonylamino-5-methoxy-benzoic acid, 1.07 g (2.85 mmol) NaI, 2.3 g (7.14 mmol) Cs2CO3 and ca. 1 ml (10 mmol) 4-bromo-but-1-ene in 2 ml DMF is heated at 40° C. for 18 h. After cooling down the reaction mixture is diluted with TBME and washed with water. The organic phase is dried with sodium sulfate and evaporated. Purification of the crude product by chromatography on silica gel (hexane EtOAc 5:1) gives the 3-(benzyloxycarbonyl-but-3-enyl-amino)-5-methoxy-benzoic acid methyl ester.

reactant | 3-benzyloxycarbonylamino-5-methoxy-benzoic acid | 2.38 mmol, 0.75 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C(=O)O)C=C(C1)OC | C16H15NO5
reactant | NaI | 2.85 mmol, 1.07 g | [Na+].[I-]
reactant | Cs2CO3 | 7.14 mmol, 2.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-bromo-but-1-ene | 10 mmol, ca. 1 ml | BrCCC=C | C4H7Br
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | TBME | CC(C)(C)OC | C5H12O
product | 3-(benzyloxycarbonyl-but-3-enyl-amino)-5-methoxy-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OC)N(CCC=C)C(=O)OCC1=CC=CC=C1)=O | C21H23NO5
